US04435406
To 2.5 g of 1,5,6,7-tetrahydropyrrolo-(2,3-f)benzimidazole-2-thiol, suspended in 40 ml of alcohol, were added dropwise while stirring 1.2 g of sodium hydroxide in 20 ml of water and, after 30 minutes, there were added 2.4 g of 2-chloromethyl-pyridine hydrochloride. The mixture was left to boil at reflux overnight, then evaporated and the residue was taken up in methylene chloride. The solution obtained was washed with 100 ml of 3 N sodium hydroxide and three times with 100 ml of water, dried over sodium sulfate and evaporated in vacuo. The crude product, dissolved in methanol, was treated with 30 ml of hydrochloric acid in ethyl acetate and the precipitated crystals were removed by filtration under suction. There were obtained 1.6 g (31.3% of theory) of 1,5,6,7-tetrahydro-2-[(2-pyridylmethyl)thio]pyrrolo(2,3-f)benzimidazole trihydrochloride of melting point 207°-209° C.

reactant | 1,5,6,7-tetrahydropyrrolo-(2,3-f)benzimidazole-2-thiol | 2.5 g | N1C(=NC2=C1C=C1C(=C2)NCC1)S | C9H9N3S
reactant | sodium hydroxide | 1.2 g | [OH-].[Na+]
reactant | 2-chloromethyl-pyridine hydrochloride | 2.4 g | Cl.ClCC1=NC=CC=C1
solvent | water | 20 ml | O | H2O
product | 1,5,6,7-tetrahydro-2-[(2-pyridylmethyl)thio]pyrrolo(2,3-f)benzimidazole trihydrochloride | 1.6 g, 31.3% | Cl.Cl.Cl.N1=C(C=CC=C1)CSC1=NC2=C(N1)C=C1C(=C2)NCC1 | InChI=1S/C15H14N4S.3ClH/c1-2-5-16-11(3-1)9-20-15-18-13-7-10-4-6-17-12(10)8-14(13)19-15;;;/h1-3,5,7-8,17H,4,6,9H2,(H,18,19);3*1H
